US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-(2-morpholinoethoxy)phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.65 g) and 5-amino-2-(2-morpholinoethoxy)benzonitrile (0.95 g), the title compound (1.02 g) was obtained, melting point: 187–189° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.65 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-(2-morpholinoethoxy)benzonitrile | 0.95 g | NC=1C=CC(=C(C#N)C1)OCCN1CCOCC1 | C13H17N3O2
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-(2-morpholinoethoxy)phenyl]-5-methylpyrazole-4-carboxamide | 1.02 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)OCCN1CCOCC1)C#N | C24H24ClN5O3
